US07285564B2
Step C—Preparation of (S)-3-(1-Carbamoyl-1,1-diphenylmethyl)-1-(7-oxohept-1-yl)pyrrolidine
To a three-necked 500 μL flask equipped with a mechanical stirrer, a nitrogen inlet, cooling bath, and a thermometer was added (S)-3-(1-carbamoyl-1,1-diphenylmethyl)-1-(7,7-dimethoxyhept-1-yl)pyrrolidine (16 g, 0.036 mol) and acetonitrile (100 mL). This mixture was cooled to about 10° C. and 100 mL of 1N aqueous hydrochloric acid was added while maintaining the reaction temperature at 20° C. or less. The resulting mixture was stirred at 20±5° C. for 2 hours. The reaction mixture was then extracted with dichloromethane (1×200 mL and 2×100 mL). The combined organic layers were washed with brine (200 mL) and dried with sodium sulfate (40 g). The organic layer was then concentrated under vacuum at about 25° C. to a volume of about 200 mL. This solution, containing the title intermediate as the hydrochloride salt, was used directly in the next step without further purification.

reactant | (S)-3-(1-carbamoyl-1,1-diphenylmethyl)-1-(7,7-dimethoxyhept-1-yl)pyrrolidine | 0.036 mol, 16 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CN(CC1)CCCCCCC(OC)OC | C27H38N2O3
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-3-(1-Carbamoyl-1,1-diphenylmethyl)-1-(7-oxohept-1-yl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CN(CC1)CCCCCCC=O | C25H32N2O2
